US04246263
4-Picolylacetate (300 g., 87% pure) was combined with 3.0 l. of 48% hydrobromic acid. A spontaneous exotherm occurred, the temperature rising from 26° to 42° C. The mixture was heated to reflux and refluxed for about 1 hour (pot temperature 124° C.). The reaction mixture was then concentrated in vacuo to yield a gummy solid which was dissolved in 1500 ml. of absolute alcohol. Crude hydrobromide salt (379 g.) crystallized on chilling and was recovered by filtration. Purified 4-picolylbromide hydrobromide (33.1 g., m.p. 187.5°-189° C.) was obtained by recrystallization of 50 g. of crude from absolute alcohol.

reactant | 4-Picolylacetate | 300 g | N1=CC=C(C=C1)CCC(=O)[O-]
reactant | hydrobromic acid | Br | BrH
product | 4-picolylbromide hydrobromide | 33.1 g | Br.N1=CC=C(C=C1)CBr | InChI=1S/C6H6BrN.BrH/c7-5-6-1-3-8-4-2-6;/h1-4H,5H2;1H
